US04808620
To a solution of 282 g of 2-chloronicotinoyl chloride and 400 g of 2,6-di-tertiary butylphenol in 1000 ml of dichloroethane under ice-cooling is added dropwise a solution of 500 g of anhydrous stannic chloride in 250 ml of dichloroethane with stirring over 50 minutes. The reaction temperature is kept below 5° C. during the addition. After completion of the addition, the mixture is stirred at room temperature for 1.5 hours. The resulting reaction mixture is poured into ice-cold water and stirred for a while. The organic layer is separated, washed with water, dried and then concentrated. The obtained residue is recrystallized from an aqueous solution of 80% methanol to give 442 g of 4-(2-chloronicotinoyl)-2,6-di-tertiary butylphenol as pale yellow crystals, melting at 135°-137° C.

reactant | 2-chloronicotinoyl chloride | 282 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 2,6-di-tertiary butylphenol | 400 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | dichloroethane | 1000 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
product | 4-(2-chloronicotinoyl)-2,6-di-tertiary butylphenol | 442 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=N1 | C20H24ClNO2
